US06605610B1
5,14diazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,7,9-tetraen-6-one;
6-chloro-5,14-diazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11)),3,5,7,9-pentaene; 6-methoxy-5,14-diazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,5,7,9-pentaene; 6-chloro-10-fluoro-5,14-diazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,5,7,9-pentaene;

reactant | 6-methoxy-5,14-diazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,5,7,9-pentaene | COC1=NC2=CC=3C4CNCC(C3C=C2C=C1)C4 | C15H16N2O
reactant | 6-chloro-10-fluoro-5,14-diazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,5,7,9-pentaene | ClC1=NC2=CC=3C4CNCC(C3C(=C2C=C1)F)C4 | C14H12ClFN2
product | 5,14diazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,7,9-tetraen-6-one | C12C=3C=C4NC(C=CC4=CC3C(CNC1)C2)=O | C14H14N2O
